US07268133B2
Preparation of Intermediate 3-Ethylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt (I-1A-6c):
To a suspension of 1-benzhydryl-3-ethylaminoazetidine-3-carboxylic acid amide (I-1A-6b; 36.1 g, 117 mmol) in methanol (560 ml) at room temperature was added concentrated aqueous HCl (19.5 ml, 234 mmol), resulting in a clear solution. To 20% Pd(OH)2 on carbon (3.75 g) was added methanol (85 ml), followed by the methanolic solution of I-1A-6b. The mixture was placed on a Parr® shaker and then reduced (50 psi H2) at room temperature for 20 hours. The reaction was then filtered through Celite® and concentrated to a fraction of the original volume under reduced pressure, at which point a precipitate formed. The suspension was diluted with t-butylmethyl ether (MTBE; 500 ml), stirred for an additional hour, and the precipitate collected by vacuum filtration. The solid was washed with MTBE and then dried, in vacuo, to afford I-1A-6c (24.8 g, 98%) as a colorless solid: +APcl MS (M+1) 144.1; 1H NMR (400 MHz, CD2Cl2) δ 4.56 (br s, 4H), 3.00 (q, J=7.2 Hz, 2H), 1.36 (t, J=7.1 Hz, 3H).

reactant | 1-benzhydryl-3-ethylaminoazetidine-3-carboxylic acid amide | 117 mmol, 36.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NCC | C19H23N3O
reactant | HCl | 234 mmol, 19.5 ml | Cl | ClH
solvent | methanol | 560 ml | CO | CH4O
solvent | t-butylmethyl ether | 500 ml | C(C)(C)(C)OC | C5H12O
catalyst | Pd(OH)2 on carbon | 3.75 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 85 ml | CO | CH4O
product | 3-Ethylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt | Cl.C(C)NC1(CNC1)C(=O)N | InChI=1S/C6H13N3O.ClH/c1-2-9-6(5(7)10)3-8-4-6;/h8-9H,2-4H2,1H3,(H2,7,10);1H
